US05013741
N-[(2-Chlorophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was suspended in 400 ml of toluene to which morpholine (3.5 g) and 2-chlorobenzaldehyde (3.5 g) were successively added. The reaction mixture was refluxed overnight and then an additional 1.7 g of aldehyde was added. Reflux was continued for an additional sixteen (16) hours and then the reaction mixture was concentrated and purified by flash chromatography (CH2Cl2, then 20% EtOAc/CH2Cl2). Fractions containing the product were concentrated and recrystallized from Et2O/pentane to give 2.10 g of analytically pure product, m.p. 165°-166° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
reactant | 2-chlorobenzaldehyde | 3.5 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(2-Chlorophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | ClC1=C(C=CC=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C20H17ClN2
